US07829560B2
A solution of 3-fluoro-5-(4-methylpiperidin-1-yl)-benzoic acid (0.650 g, 2.7 mmol) in dimethylformamide (5 ml) is treated with HBTU (1.7 g, 1.7 eq) and diisopropylethylamine (1.6 ml, 3.5 eq). The mixture is stirred for five minutes at room temperature before a solution of (4-aminonaphthalen-1-yloxy)-acetic acid methyl ester (0.696 g, 1.1 eq) in DMF (2 ml) is added. The mixture is then stirred at room temperature for an additional 15 h before being diluted with water and extracted with ethyl acetate. The organic layer is washed with water, dried over Na2SO4 and evaporated to dryness. The residue is purified by column chromatography on silica gel, eluted with ethyl acetate in hexane (10-30%) to give {4-[3-fluoro-5-(4-methylpiperidin-1-yl)-benzoylamino]-naphthalen-1-yloxy}-acetic acid methyl ester as a solid (1.0 g). Mp: 50-51° C. 1H NMR (300 MHz, DMSO-d6) δ 10.25 (s, 1H), 8.26 (m, 1H), 7.87 (m, 1H), 7.58 (m, 2H), 7.41 (m, 2H), 7.14 (d, J=8.7 Hz, 1H), 6.96 (m, 3H), 5.05 (s, 2H), 3.84 (d, J=12.6 Hz, 1H), 3.74 (s, 3H) 2.77 (t, J=11.7 Hz, 2H), 1.68 (brd, 2H), 1.60 (m, 1H), 1.20 (m, 2H), 0.94 (d, J=6.3 Hz, 3H). MS: 451 (M+1).

reactant | 3-fluoro-5-(4-methylpiperidin-1-yl)-benzoic acid | 2.7 mmol, 0.650 g | FC=1C=C(C(=O)O)C=C(C1)N1CCC(CC1)C | C13H16FNO2
reactant | HBTU | 1.7 g, 1.7 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.6 ml, 3.5 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (4-aminonaphthalen-1-yloxy)-acetic acid methyl ester | 0.696 g, 1.1 eq | COC(COC1=CC=C(C2=CC=CC=C12)N)=O | C13H13NO3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {4-[3-fluoro-5-(4-methylpiperidin-1-yl)-benzoylamino]-naphthalen-1-yloxy}-acetic acid methyl ester | 1.0 g | COC(COC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCC(CC1)C)F)=O)=O | C26H27FN2O4
